US06545009B1
In the same manner as in Example 28, methyl 4-thiocarbamoylbenzoate was reacted with 2-bromoacetylpyridine hydrobromide to obtain methyl 4-[4-(2-pyridyl)-2-thiazolyl]benzoate hydrobromide. The product was recrystallized from ethanol. Yield: 80%. Pale yellow prisms. Melting point: 243 to 244° C.

reactant | methyl 4-thiocarbamoylbenzoate | C(N)(=S)C1=CC=C(C(=O)OC)C=C1 | C9H9NO2S
reactant | 2-bromoacetylpyridine hydrobromide | Br.BrCC(=O)C1=NC=CC=C1
product | methyl 4-[4-(2-pyridyl)-2-thiazolyl]benzoate hydrobromide | Yield: 80% | Br.N1=C(C=CC=C1)C=1N=C(SC1)C1=CC=C(C(=O)OC)C=C1 | InChI=1S/C16H12N2O2S.BrH/c1-20-16(19)12-7-5-11(6-8-12)15-18-14(10-21-15)13-4-2-3-9-17-13;/h2-10H,1H3;1H
